data/mechanism_extracts/ChemCommun/10.1039_c7cc03669h.json
{"doi": "10.1039_c7cc03669h", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical synthesis of 3-alkyl phthalides via anodic oxidation of 2-vinylbenzoic acids in the presence of aliphatic carboxylic acids as alkyl radical precursors (Kolbe-type co-electrolysis).", "mechanism_family": ["radical_anodic", "paired_electrolysis", "direct_SET"], "electrochemical_role": "Anodic oxidation of the aromatic carboxylate (2-vinylbenzoate) to an aroyloxy radical and concurrent Kolbe decarboxylation of the aliphatic carboxylate to an alkyl radical; cathodic reduction of the cyclized benzylic radical to an anion that is protonated to give the non-alkylated lactone byproduct.", "key_intermediates": [{"name": "aroyloxy (benzoyloxy) radical from 2-vinylbenzoate (9)", "smiles": null, "role": "reactive"}, {"name": "cyclized benzylic/3-phthalidyl C-centered radical (10)", "smiles": null, "role": "reactive"}, {"name": "alkyl radical from Kolbe decarboxylation of aliphatic acid (11a, e.g. ethyl radical 5a)", "smiles": null, "role": "reactive"}, {"name": "aliphatic carboxylate (11)", "smiles": null, "role": "reactive"}, {"name": "3-phthalidyl carbanion (12) from cathodic reduction of 10", "smiles": null, "role": "transient"}, {"name": "ethyl benzoate (6), recombination byproduct of aroyloxy radical 4a + ethyl radical 5a", "smiles": "CCOC(=O)c1ccccc1", "role": "off_pathway"}, {"name": "non-alkylated phthalide (3) from H-atom abstraction or protonation of 12", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes the 2-vinylbenzoate to an aroyloxy radical that undergoes 5-exo-trig cyclization onto the pendant alkene, giving a benzylic C-radical; this radical is trapped by an alkyl radical produced by simultaneous Kolbe decarboxylation of the aliphatic co-acid, or is alternatively reduced at the cathode to a carbanion that protonates to the unalkylated lactone.", "rate_determining_step": null, "probe_reagents": [{"name": "benzoic acid alone (no co-acid)", "smiles": "OC(=O)c1ccccc1", "purpose": "other", "observation": "Quantitative recovery of starting acid; no oxidation observed, suggesting aromatic carboxylates are not directly oxidized under standard Kolbe conditions."}, {"name": "heptanoic acid alone in MeOH", "smiles": "CCCCCCC(=O)O", "purpose": "intermediate_trap", "observation": "Electrolysis gave dodecane (Kolbe dimer) with no methoxyhexane, indicating alkyl radical (not cation) intermediates."}, {"name": "ethyl cinnamate (7)", "smiles": "CCOC(=O)/C=C/c1ccccc1", "purpose": "intermediate_trap", "observation": "Fully recovered after 30 min electrolysis, ruling out direct anodic oxidation of the styryl olefin to a radical cation captured by carboxylate."}, {"name": "N,N-diallyl 2-vinylbenzamide (1g) with excess AcOH", "smiles": null, "purpose": "radical_clock", "observation": "Double 5-exo-trig cyclization product 8a was detected by 1H NMR alongside non-cyclized 8b/8c, supporting a radical cyclization mechanism."}, {"name": "secondary/tertiary aliphatic co-acids", "smiles": null, "purpose": "other", "observation": "Only the non-alkylated phthalide 3 was obtained, consistent with overoxidation of secondary/tertiary radicals to carbocations under Kolbe conditions and H-atom abstraction by radical 10."}, {"name": "allyl ester substrate (2j)", "smiles": null, "purpose": "other", "observation": "Remained untouched due to preferred s-cis conformation preventing intramolecular cyclization."}], "evidence_types_used": ["intermediate_trap_other", "radical_clock", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "Two pathways are considered for forming the aroyloxy radical: (I) direct anodic oxidation of the aromatic carboxylate (disfavored, since benzoic acid alone is fully recovered) and (II) a redox/SET mechanism in which the Kolbe-generated alkyl radical oxidizes the aromatic carboxylate (favored, pathway 2 in Scheme 4). An alkyl carbocation route capturing benzoate is excluded by the heptanoic acid control (dodecane, no methoxyhexane). Ester byproduct 6 (ethyl benzoate) arises from radical-radical recombination of 4a and 5a. The non-alkylated phthalide 3 arises either by HAT from solvent/medium by radical 10 or by cathodic reduction of 10 to anion 12 followed by protonation."}
